US06544985B2
(RS)-[4-Chloro-5-dimethylamino-2-(3-{3-[3-methyl-4-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-3-oxo-propionylamino)-phenyl]-carbamic acid tert.-butyl ester
The title compound was prepared from (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester (Example J1) and (RS)-3-{3-[3-methyl-4-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-3-oxo-propionic acid tert.-butyl ester (Example K13) according to the general procedure M. Obtained as a light yellow solid (187 mg).

reactant | (2-amino-4-chloro-5-dimethylamino-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)N)=O | C13H20ClN3O2
reactant | (RS)-3-{3-[3-methyl-4-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=C(C(=NO1)C)COC1OCCCC1)=O | C23H29NO6
product | (RS)-[4-Chloro-5-dimethylamino-2-(3-{3-[3-methyl-4-(tetrahydro-pyran-2-yloxymethyl)-isoxazol-5-yl]-phenyl}-3-oxo-propionylamino)-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)Cl)NC(CC(=O)C1=CC(=CC=C1)C1=C(C(=NO1)C)COC1OCCCC1)=O)=O | C32H39ClN4O7
